US07842694B2
4-[(5,6-Dichloropyridin-3-yl)carbonyl]morpholine
Oxalyl chloride (3.2 mL; 36.0 mmol) was added to a solution of 5,6 dichloronicotinic acid (5.76 g; 30.0 mmol) and 4M hydrogen chloride in dioxane (7.5 mL; 30 mmol) in DCM (50 mL). The mixture was stirred at RT for 18 hours, the DCM evaporated in vacuo, the residue azeotroped with toluene (2×15 mL) and added to a solution of morpholine (3.1 mL; 36.0 mmol) and triethylamine (10.0 mL; 72 mmol) in DCM (150 mL). The mixture was stirred at RT for 18 hours, the DCM evaporated in vacuo, and the residue partitioned between water (75 mL) and ethyl acetate (100 mL). The organic layer was washed with brine, dried (MgSO4) and evaporated to a residue which was chromatographed on silica, eluting with 50% ethyl acetate in isohexane, to give the desired compound (7.1 g).

reactant | Oxalyl chloride | 36.0 mmol, 3.2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5,6 dichloronicotinic acid | 30.0 mmol, 5.76 g | ClC=1C(=NC=C(C(=O)O)C1)Cl | C6H3Cl2NO2
reactant | hydrogen chloride | 4M | Cl | ClH
reactant | dioxane | 30 mmol, 7.5 mL | O1CCOCC1 | C4H8O2
reactant | morpholine | 36.0 mmol, 3.1 mL | N1CCOCC1 | C4H9NO
reactant | triethylamine | 72 mmol, 10.0 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
product | 4-[(5,6-Dichloropyridin-3-yl)carbonyl]morpholine | 7.1 g | ClC=1C=C(C=NC1Cl)C(=O)N1CCOCC1 | C10H10Cl2N2O2
